US08217032B2
5-{Hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,3,5-trifluoro-phenyl)-naphthalen-2-ol
Charge a nitrogen-purged flask with (R)-(+)-α,α-diphenyl-2-pyrrolidinemethanol (630 mg, 2.49 mmol), dissolve in 1M BH3-tetrahydrofuran (THF) (66 mL, 66 mmol) and heat to 45° C. under nitrogen. Dissolve [6-hydroxy-2-(2,3,5-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (8.3 g, 16.6 mmol) in THF (75 mL) and add dropwise via syringe pump to the borane solution over 2.5 hours. Add ethanolamine (20 mL, 332 mmol) slowly and heat at 45° C. for 2 hours. Pour the reaction into saturated aqueous ammonium chloride and extract twice with methylene chloride. Wash the combined organic layers with water, dry over sodium sulfate, filter and concentrate. Dissolve the residue in methylene chloride (20 mL) and allow to slowly precipitate. Collect the precipitate to yield 4.3 g (51%) of the title compound in >99% ee. Purify the mother liquor over silica gel (eluting with 1 to 6% methanol in methylene chloride) to yield 2.0 g (75% total yield) of the title compound in 91% ee. Mass spectrum (ion spray): m/z=508.3 (M+H).

reactant | (R)-(+)-α,α-diphenyl-2-pyrrolidinemethanol | 2.49 mmol, 630 mg | C1(=CC=CC=C1)C(O)([C@@H]1NCCC1)C1=CC=CC=C1 | C17H19NO
reactant | [6-hydroxy-2-(2,3,5-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 16.6 mmol, 8.3 g | OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C(=CC(=C1)F)F)F | C30H26F3NO3
reactant | borane | B | BH3
reactant | ethanolamine | 332 mmol, 20 mL | C(O)CN | C2H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
product | 5-{Hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,3,5-trifluoro-phenyl)-naphthalen-2-ol | 4.3 g, 51% | OC(C1=C2C=CC(=CC2=CC=C1C1=C(C(=CC(=C1)F)F)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H28F3NO3
